US09303020B2
Preparation of 2-(4-fluorophenyl)-6-nitro-3-(1-((trifluoromethyl)sulfonyl)-1H-imidazol-2-yl)benzofuran-5-yl trifluoromethanesulfonate.
To a mixture of 2-(4-fluorophenyl)-3-(1H-imidazol-2-yl)-6-nitrobenzofuran-5-ol (650 mg, 1.916 mmol) in pyridine (60 mL) at room temperature was added N,N-dimethylaminopyridine (DMAP) (234 mg, 1.916 mmol). The mixture was then cooled to 0° C. and added with triflic anhydride (0.647 mL, 3.83 mmol). The reaction mixture was allowed to warm to room temperature and stirring continued at rt for 24 hr. The reaction mixture was diluted with water, and stirred for 10 min. The solid was filtered, washed with water and dried under suction. The crude product was purified by combiflash using a mixture of EtOAc/petroleum ether as an eluant over a 24 g silica column. The titled compound was collected at 14% EtOAc in pet. ether and concentrated. Yield: 500 mg (43%). 1H NMR (400 MHz, DMSO-d6) δ ppm: 8.90 (s, 1H) 8.24-8.41 (m, 2H) 7.65-7.82 (m, 3H) 7.34-7.52 (m, 2H). LCMS: (ES+) m/z=604.06 (M+H)+; Column—ACQUITY UPLC BEH C8 (50×2.1 mm; 1.7 μm); M phase A: 5 mM Ammonium Acetate:MeCN (95:5); M phase B: 5 mM Ammonium Acetate:MeCN (5:95)

reactant | 2-(4-fluorophenyl)-3-(1H-imidazol-2-yl)-6-nitrobenzofuran-5-ol | 1.916 mmol, 650 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C=1NC=CN1)C=C(C(=C2)[N+](=O)[O-])O | C17H10FN3O4
reactant | triflic anhydride | 3.83 mmol, 0.647 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2-(4-fluorophenyl)-6-nitro-3-(1-((trifluoromethyl)sulfonyl)-1H-imidazol-2-yl)benzofuran-5-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C=2N(C=CN2)S(=O)(=O)C(F)(F)F)C1)[N+](=O)[O-])(F)F | C19H8F7N3O8S2
